* RS2 completo, macromodelo vendor LM741 (21101175)
.include lm741_vendor.lib
RA1 in1 suma2 11.1111k
RA2 in2 suma2 33.3333k
RAR vee suma2 7.5Meg
RA3 va suma2 100k
XA2 0 suma2 vcc vee vout1 LM741
RAF2 suma2 vout1 100k
RA4 in3 suma1 10k
XA1 0 suma1 vcc vee va LM741
RAF1 suma1 va 25k
VIN1 in1 0 SINE(0 20m 500)
VIN2 in2 0 SINE(0 20m 700)
VIN3 in3 0 SINE(0 20m 900)
RB3 in6 sumb2 10k
RB4 vb sumb2 90k
XB2 0 sumb2 vcc vee vout2 LM741
RBF2 sumb2 vout2 90k
RB1 in4 sumb1 20k
RB2 in5 sumb1 10k
XB1 0 sumb1 vcc vee vb LM741
RBF1 sumb1 vb 40k
VIN6 in6 0 SINE(0 20m 1500)
VIN4 in4 0 SINE(0 20m 1100)
VIN5 in5 0 SINE(0 20m 1300)
XC1 vout1 ng1 vcc vee na LM741
XC2 vout2 ng2 vcc vee nb LM741
XC3 np nn vcc vee out LM741
RC1 ng1 na 10k
RCG ng1 ng2 5k
RC2 ng2 nb 10k
RC3 na nn 10k
RC4 nb np 10k
RC5 nn out 25k
RC6 np 0 25k
RL out 0 10k
VCC vcc 0 15
VEE vee 0 -15
BIDEAL ideal 0 V=112.5*V(in1)+37.5*V(in2)-31.25*V(in3)+25*V(in4)+50*V(in5)-112.5*V(in6)-2.5
.options method=Gear
.options cshunt=10p abstol=1e-9 vntol=10u
.tran 0 10m 0 10u
.meas TRAN err_max MAX abs(V(out)-V(ideal))
.meas TRAN err_rms RMS (V(out)-V(ideal))
.meas TRAN vout_max MAX V(out)
.meas TRAN vout_min MIN V(out)
.end
